US05159080
Step A: 2-Acetyl-3-(N,N-dimethylaminomethyl)-indole (SI-WG 343)
187 g (2 mols) N,N-dimethylmethyleneammonium chloride are suspended under an inert gas (nitrogen or argon) in 28 liters anhydrous acetonitrile. The stirred suspension is mixed with 159 g (1 mol) pulverized and dried 2-acetylindole, heated to the boil and, while stirring continuously, uniformly cooled over the course of 7 hours to 25° C. It is stirred overnight at 20°-25° C. The acetonitrile is substantially distilled off under vacuum and the remaining residue taken up in 20 liters of water and adjusted to pH 9-10 with concentrated ammonium hydroxide solution. This solution is stirred up three times with, in each case, 5 liters of dichloromethane. The organic phases are combined and washed with 5 liters of water. The organic phase is dried by the addition of anhydrous sodium sulphate, filtered and mixed with 5 liters tert-butyl methyl ether. The dichloromethane is substantially distilled off, the crystallization of the product thereby already commencing. This is completed by leaving to stand overnight at +4° C. The product is filtered off with suction, washed with n-hexane and dried under a vacuum. Yield: 141.7 g (65.6% of theory).

reactant | N,N-dimethylmethyleneammonium chloride | 2 mols, 187 g | [Cl-].CC=[N+]=CC
reactant | 2-acetylindole | C(C)(=O)C=1NC2=CC=CC=C2C1 | C10H9NO
reactant | acetonitrile | 28 liters | C(C)#N | C2H3N
product | 2-Acetyl-3-(N,N-dimethylaminomethyl)-indole | C(C)(=O)C=1NC2=CC=CC=C2C1CN(C)C | C13H16N2O
